Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins / Tetracycline Analogues / Amoxicillin / IV Dye, 
Iodine Containing Contrast Media / Lactose / Statins-Hmg-Coa 
Reductase Inhibitors / metoprolol
 
Attending: ___.
 
Chief Complaint:
Chest pain and dyspnea with exertion/Fatigue

 
Major Surgical or Invasive Procedure:
___ Aortic valve replacement #21 ___ tissue valve, 
coronary artery bypass grafting times one (SVG to PDA)

 
History of Present Illness:
Mr. ___ is a delightful ___ year old gentleman with known 
coronary artery disease with a chronic total occlusion of the 
right coronary artery and past drug eluting stent to the left 
anterior descending artery in ___. At that time, mild aortic 
insufficiency was noted. ___ underwent a routine follow-up stress 
echo on ___ and was found to have inducible ischemia and 
severe aortic insufficiency. A repeat TTE under resting 
conditions showed moderate aortic insufficiency. A cardiac 
catheterization was performed which showed moderate aortic 
stenosis and regurgitaion. A follow-up MRI showed moderate MR 
and moderate ___ is quite debilitated with fatigue as his 
main symptom however does not significant dyspnea on exertion 
and exertional chest pain. ___ was exercising regularly prior to 
this, however, ___ has now limited his activity as ___ no longer 
tolerates exercise. Given his symptoms and progression of his 
disease, ___ was referred for surgical discussion.
 
Past Medical History:
CAD (s/p DES to LAD in ___ 
Prostate cancer s/p prostatectomy ___
Hodgkin's Lymphoma ___ s/p splenectomy, chemotherapy and
radiation,
Gout
Tonsillectomy
Spontaneous subarachnoid hemorrhage ___, treated conservatively 

Hemorrhoids
Herpes zoster and simplex
Hyperlipidemia
asthma
peptic ulcer disease

 
Social History:
___
Family History:
Father had an MI at age ___, died at age ___.

 
Physical Exam:
Vital Signs sheet entries for ___:
BP: (R) 123/59. (L) 134/69 Heart Rate: 96. Resp. Rate: 16. O2
Saturation%: 100.

Height: 71"     Weight: 150lb

General: WDWN in NAD
Skin: Warm [X] Dry [X] intact [X]
HEENT: NCAT [X] PERRLA [X] EOMI [X] OP benign. Teeth in good
repair
Neck: Supple [X] Full ROM [X] No JVD
Chest: Lungs clear bilaterally [X]
Heart: RRR, III/VI Systolic murmur with quiet I/VI diastolic
murmur.  
Abdomen: Soft [X] non-distended [X] non-tender [X] bowel sounds 
+
[X] Well healed midline abd incision. 
Extremities: Warm [X], well-perfused [X] No Edema 
Varicosities: None [X]
Neuro: Grossly intact [X]
Pulses: Water hammer pulse noted
Femoral      Right:2   Left:2
DP           Right:2   Left:2
___           Right:2   Left:2
Radial       Right:2   Left:2

Carotid Bruit:   Bilateral transmitted/likely left bruit also
 
Pertinent Results:
___ ECHOCARDIOGRAPHY REPORT

___       ___ MRN:   ___       TEE 
(Complete) Done ___ at 11:52:39 AM      FINAL  
Referring Physician     ___  
___.
___, Division of Cardiothorac
___  Status: Inpatient DOB: ___ 
Age (years): ___ M  Hgt (in):  
BP (mm Hg): /  Wgt (lb):  
HR (bpm):  BSA (m2):  
Indication: Intraoperative TEE for AVR, CABG, ?MVR  
ICD-9 Codes: 424.1 
___ Information  
Date/Time: ___ at 11:52    ___ MD: ___, MD 
___ Type: TEE (Complete)
3D imaging. Sonographer: ___, MD 
Doppler: Full Doppler and color Doppler ___ Location: 
Anesthesia West OR cardiac 
Contrast: None Tech Quality: Adequate 
Tape #: 2012AW-:1 Machine: 2 
Echocardiographic Measurements  
Results  Measurements  Normal Range  
Left Ventricle - Septal Wall Thickness:  1.1 cm  0.6 - 1.1 cm  
Left Ventricle - Inferolateral Thickness:  1.1 cm  0.6 - 1.1 cm  

Left Ventricle - Diastolic Dimension:  4.3 cm  <= 5.6 cm  
Left Ventricle - Systolic Dimension:  3.2 cm     
Left Ventricle - Fractional Shortening:  *0.26  >= 0.29  
Left Ventricle - Ejection Fraction:  50% to 55%  >= 55%  
Aorta - Annulus:  2.5 cm  <= 3.0 cm  
Aorta - Sinus Level:  3.4 cm  <= 3.6 cm  
Aorta - Sinotubular Ridge:  2.8 cm  <= 3.0 cm  
Aorta - Ascending:  2.7 cm  <= 3.4 cm  
Aorta - Descending Thoracic:  2.1 cm  <= 2.5 cm  
 
Findings  
Multiplanar reconstructions were generated and confirmed on an 
independent workstation.  

LEFT ATRIUM: Good (>20 cm/s) ___ ejection velocity. No thrombus 
in the ___. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: A catheter or pacing wire is 
seen in the RA and extending into the RV. No ASD by 2D or color 
Doppler. 

LEFT VENTRICLE: Normal LV wall thickness. Normal LV cavity size. 
Low normal LVEF. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal ascending aorta diameter. Complex (>4mm) atheroma 
in the descending thoracic aorta. Complex (mobile) atheroma in 
the descending aorta. No thoracic aortic dissection. 

AORTIC VALVE: Three aortic valve leaflets. Moderately thickened 
aortic valve leaflets. Bioprosthetic aortic valve prosthesis 
(AVR). Mild AS (area 1.2-1.9cm2). Moderate (2+) AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. Trivial 
MR. 

___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. 

PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflets. 
Mild PR. 

GENERAL COMMENTS: Written informed consent was obtained from the 
___. A TEE was performed in the location listed above. I 
certify I was present in compliance with ___ regulations. The 
___ was under general anesthesia throughout the procedure. 
No TEE related complications. Results were personally reviewed 
with the MD caring for the ___.  
Conclusions  
Pre-CPB:
No thrombus is seen in the left atrial appendage. No atrial 
septal defect is seen by 2D or color Doppler. 

Left ventricular wall thicknesses are normal. The left 
ventricular cavity size is normal. Overall left ventricular 
systolic function is low normal (LVEF 50-55%). Right ventricular 
chamber size and free wall motion are normal. 

There are multiple complex (>4mm) atheroma in the descending 
thoracic aorta, at least two of which have mobile components. No 
thoracic aortic dissection is seen. There are three aortic valve 
leaflets. The aortic valve leaflets are moderately thickened. 
There is mild aortic valve stenosis (valve area 1.2-1.9cm2). 
Moderate (2+) central aortic regurgitation is seen. 

The mitral valve leaflets are mildly thickened. Trivial mitral 
regurgitation is seen. 

___ was notified in person of the results at time of 
study.

Post-CPB:
The ___ is on a phenylephrine infusion. There is a 
bioprosthetic valve in the aortic position. The valve appears 
well seated with normally mobile leaflets. There are no 
paravalvular leaks and no AI. The peak gradient across the 
aortic valve is 22mmHg, the mean gradient is 11mmHg with CO of 
4.1L/min.

The LV systolic function appears preserved. There is a period 
where inferior and inferoseptal hypokinesis is noted. This 
resolves by the end of the case. This is possibly due to air in 
the graft. The RV systolic function is unchanged. 

The MR remains trace. There is no evidence of aortic dissection. 
The mobile atheroma in the descending aortia appear unchanged.   

 
Brief Hospital Course:
Mr. ___ was brought to the Operating Room on ___ where 
___ underwent an aortic valve replacement #21 ___ tissue 
valve, coronary artery bypass grafting times one (SVG to PDA).  
Overall the ___ tolerated the procedure well and 
post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring.  
Post-operative one found the ___ extubated, alert and 
oriented and breathing comfortably.  The ___ was 
neurologically intact and hemodynamically stable, weaned from 
inotropic and vasopressor support.  Beta blocker was initiated 
and the ___ was gently diuresed toward the preoperative 
weight.  The ___ was transferred to the telemetry floor for 
further recovery.  Chest tubes and pacing wires were 
discontinued without complication.  The ___ was evaluated by 
the physical therapy service for assistance with strength and 
mobility.  By the time of discharge on post-operative day four 
the ___ was ambulating freely, the wound was healing and 
pain was controlled with oral analgesics.  The ___ was 
discharged to ___ in good condition with 
appropriate follow up instructions.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atenolol 25 mg PO DAILY 
2. Budesonide Nasal Inhaler *NF* 90 mcg Other 2 puffs daily 
3. Clopidogrel 75 mg PO DAILY 
4. Lansoprazole Oral Disintegrating Tab 15 mg PO DAILY 
5. Lisinopril 5 mg PO DAILY 
6. Metoprolol Tartrate 6.25 mg PO BID 
7. AndroGel *NF* (testosterone) 1 % (25 mg/2.5 g) Transdermal 
daily 
8. Aspirin 325 mg PO DAILY 
9. coenzyme Q10 *NF* 100 mg Oral BID 
10. Guaifenesin ER 1200 mg PO DAILY 
11. lysine *NF* ___ mg Oral TID 
12. Magnesium Citrate 400 mL PO QAM 
13. Magnesium Citrate 800 mL PO QPM 
14. methylsulfonylmethane *NF* 1,000 mg Oral daily 
15. Fish Oil (Omega 3) 1000 mg PO BID 
16. selenium *NF* 100 mcg Oral daily 
17. Vitamin E 1200 UNIT PO DAILY 

 
Discharge Medications:
1. AndroGel *NF* (testosterone) 1 % (25 mg/2.5 g) Transdermal 
daily 
2. Aspirin 325 mg PO DAILY 
3. Metoprolol Tartrate 6.25 mg PO BID 
4. Acetaminophen 650 mg PO Q4H:PRN pain, fever 
5. Bisacodyl ___AILY:PRN constipation 
6. Docusate Sodium 100 mg PO BID 
7. Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using REG Insulin
8. Milk of Magnesia 30 ml PO DAILY 
9. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
RX *oxycodone-acetaminophen [Percocet] 5 mg-325 mg one tablet(s) 
by mouth every four hours Disp #*40 Tablet Refills:*0
10. Xopenex Neb *NF* 0.63 mg/3 mL Inhalation every six hours 
PRN:wheezes Reason for Ordering: Wish to maintain preadmission 
medication while hospitalized, as there is no acceptable 
substitute drug product available on formulary.
11. Budesonide Nasal Inhaler *NF* 90 mcg Other 2 puffs daily 
12. coenzyme Q10 *NF* 100 mg Oral BID 
13. Fish Oil (Omega 3) 1000 mg PO BID 
14. Guaifenesin ER 1200 mg PO DAILY 
15. Lansoprazole Oral Disintegrating Tab 15 mg PO DAILY 
16. lysine *NF* ___ mg Oral TID 
17. Magnesium Citrate 400 mL PO QAM 
18. Magnesium Citrate 800 mL PO QPM 
19. methylsulfonylmethane *NF* 1,000 mg Oral daily 
20. selenium *NF* 100 mcg Oral daily 
21. Vitamin E 1200 UNIT PO DAILY 
22. Furosemide 20 mg PO BID 
RX *furosemide 20 mg one tablet(s) by mouth twice a day Disp #*5 
Tablet Refills:*2
RX *furosemide 20 mg one tablet(s) by mouth twice a day Disp 
#*10 Tablet Refills:*2
23. Potassium Chloride 20 mEq PO BID 
RX *potassium chloride 20 mEq 20 meEq(s) by mouth twice a day 
Disp #*10 Tablet Refills:*2

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
coronary artery disease, aortic insufficiency

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
 
Followup Instructions:
___